US05102890
3-Dimethylaminopropionic acid hydrochloride 9.2 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (16.7 g) are added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (16.5 g) in anhydrous dimethylformamide (100 cc), and the suspension obtained is stirred for 24 hours at a temperature in the region of 20° C. Distilled water (200 cc) and dichloromethane (200 cc) are then added. The aqueous phase is separated after settling has occurred and then re-extracted with dichloromethane (3×50 cc). The organic phases are combined, washed with distilled water (2×50 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 80° C. The residue obtained is dissolved in dichloromethane (100 cc) and the solution extracted with 1N aqueous hydrochloric acid solution (2×100 cc). The aqueous phases are combined, washed with dichloromethane (50 cc), alkalinized with 10 N sodium hydroxide solution to a pH in the region of 11 and extracted with dichloromethane (2×150 cc). The organic phases are combined, washed with distilled water (2×30 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at 60° C. After the product thereby obtained has been recrystallized twice successively in ethanol, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-dimethylaminopropionate (2.9 g), m.p. 150° C., is obtained.

reactant | 3-Dimethylaminopropionic acid hydrochloride | 9.2 g | Cl.CN(CCC(=O)O)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 16.7 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 16.5 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | water | 200 cc | O | H2O
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 200 cc | ClCCl | CH2Cl2
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 3-dimethylaminopropionate | 2.9 g | CN(CCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl)C | C21H19ClN4O3
